US06087380
1-Methyl-2-[(4-amidinophenyl)thiomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-methylpropyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 27 from 1-methyl-2-[(4-cyanophenyl)thiomethyl]-benzimidazol-5-yl-carboxylic acid-(N-(2-methylpropyl-N-(2-ethoxycarbonylethyl)-amide, ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 83% of theory, C25H31N6O3S (495.65) Rf value: 0.30 (silica gel; ethyl acetate/ethanol/ammonia =50:45:5): EKA mass spectrum: (M+H)+ =496

reactant | 1-methyl-2-[(4-cyanophenyl)thiomethyl]-benzimidazol-5-yl-carboxylic acid | CN1C(=NC2=C1C=CC(=C2)C(=O)O)CSC2=CC=C(C=C2)C#N | C17H13N3O2S
reactant | 2-methylpropyl-N-(2-ethoxycarbonylethyl)-amide | CC(C[N-]CCC(=O)OCC)C
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | ethyl acetate ethanol ammonia | C(C)(=O)OCC.C(C)O.N
solvent | ethanol | C(C)O | C2H6O
product | 1-Methyl-2-[(4-amidinophenyl)thiomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-methylpropyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Yield: 83% | Cl.CC(CN(C(=O)C1=CC2=C(N(C(=N2)CSC2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OCC)C | InChI=1S/C26H33N5O3S.ClH/c1-5-34-24(32)12-13-31(15-17(2)3)26(33)19-8-11-22-21(14-19)29-23(30(22)4)16-35-20-9-6-18(7-10-20)25(27)28;/h6-11,14,17H,5,12-13,15-16H2,1-4H3,(H3,27,28);1H
